US07179823B1
Lithium aluminium hydride (300 mg) was added gradually to a solution of ethyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboxylate (1.56 g) in tetrahydrofuran (70 ml) at 0° C., which was stirred for 2 hours. Sodium sulfate-decahydrate (3.40 g) was added to the reaction mixture, and the precipitate was filtered. The filtrate was concentrated, and residue was subjected to silica gel column chromatography to obtain 1-(6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-ylmethanol (1.27 g, yield 89%) as a colorless oily substance from the fraction eluted with acetone-hexane (2:3, volume ratio).

reactant | Lithium aluminium hydride | 300 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazole-4-carboxylate | 1.56 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)C(=O)OCC)C1=CC=CC=C1 | C29H26N4O4
reactant | Sodium sulfate-decahydrate | 3.40 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-(6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-ylmethanol | 1.27 g, yield 89% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)CO)C1=CC=CC=C1 | C27H24N4O3
